US08349833B2
Portions of sodium borohydride (0.16 g, 4.28 mmol) were added to a solution of 1-tert-butoxycarbonyl-5-[1-(2-chlorophenyl)-7-methyloctyl]-1H-pyrrolo[3,2-c]pyridin-5-ium bromide (1.3 g, 2.14 mmol) in 70% EtOH (30 mL) at room temperature over 30 minutes. Once the addition was complete, the mixture was stirred for 0.5 hours. The solvent was evaporated under reduced pressure and water (60 mL) was added. The product was extracted with dichloromethane (3×80 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The resultant tertiary amine was purified by column chromatography (silica gel, ethyl acetate/heptane=1/10 to 1/3) to yield 5-[1-(2-chlorophenyl)-7-ethoxycarbonyl-7-methyloctyl]-4,5,6,7-tetrahydropyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.53 g, 46.9%) as a yellow oil. 1H NMR (Field: 300 MHz, Solvent: CD3OD/TMS) δ (ppm): 7.52 (d, 1H, J=7.8 Hz), 7.37 (d, 1H, J=7.8 Hz), 7.27 (t, 1H, J=6.6 Hz), 7.19 (t, 1H, J=7.5 Hz), 7.12 (d, 1H, J=3.3 Hz), 5.95 (d, 1H, J=3.3 Hz), 4.16-4.13 (m, 1H), 4.09 (q, 2H, J=7.2 Hz), 3.31 (d, 1H, J=13.8 Hz), 2.85-2.59 (m, 4H), 1.95-1.76 (m, 2H), 1.55 (s, 9H), 1.45-1.40 (m, 2H), 1.28-1.14 (m, 6H), 1.21 (t, 3H, J=7.2 Hz), 1.11 (s, 6H). 13C NMR (Field: 75 MHz, Solvent: CDCl3/TMS) δ (ppm): 178.00, 149.47, 139.70, 134.90, 129.45, 129.15, 127.89, 127.60, 126.80, 120.94, 119.76, 109.18, 83.24, 63.80, 60.30, 48.78, 42.32, 40.88, 33.20, 30.56, 28.31, 26.45, 25.44, 25.38, 25.03, 14.52. HRMS (FIR): Calculated for C30H43ClN2O2 (M+H)+: 531.2990, found 531.2933.

reactant | sodium borohydride | 4.28 mmol, 0.16 g | [BH4-].[Na+]
reactant | 1-tert-butoxycarbonyl-5-[1-(2-chlorophenyl)-7-methyloctyl]-1H-pyrrolo[3,2-c]pyridin-5-ium bromide | 2.14 mmol, 1.3 g | [Br-].C(C)(C)(C)OC(=O)N1C=CC=2C=[N+](C=CC21)C(CCCCCC(C)C)C2=C(C=CC=C2)Cl
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-[1-(2-chlorophenyl)-7-ethoxycarbonyl-7-methyloctyl]-4,5,6,7-tetrahydropyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.53 g, 46.9% | C(C)(C)(C)OC(=O)N1C=CC=2CN(CCC21)C(CCCCCC(C)(C)C(=O)OCC)C2=C(C=CC=C2)Cl | C30H43ClN2O4
